US08283353B2
4′-(hydroxymethyl)-2′-methylbiphenyl-2-carbonitrile
A mixture of 4-bromo-3-methylbenzylalcohol (15.16 g), 2-cyanophenylboric acid (14.80 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), dichloromethane adduct (3.08 g), tetrabutylammonium bromide (1.22 g), 2M aqueous sodium carbonate solution (75 mL) and toluene (300 mL) was refluxed under an argon atmosphere for 30 hr. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate. The obtained ethyl acetate solution was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow oil (4.12 g, 24%).

reactant | 4-bromo-3-methylbenzylalcohol | 15.16 g | BrC1=C(C=C(CO)C=C1)C | C8H9BrO
reactant | 2-cyanophenylboric acid | 14.80 g | C(#N)C1=C(C=CC=C1)OB(O)O | C7H6BNO3
reactant | dichloromethane | 3.08 g | ClCCl | CH2Cl2
reactant | sodium carbonate | 2M, 75 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 1.22 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-(hydroxymethyl)-2′-methylbiphenyl-2-carbonitrile | 4.12 g, 24% | OCC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)C | C15H13NO
